US07728030B2
(αS)-3-Fluoro-β-[[1-(4-fluorophenyl)-1H-indazole-5-yl]oxy]-α-(2-methylpropyl)benzeneethanamine
(2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol (350 mg, 1.66 mmol), 5-iodo-1-(4-fluorophenyl)-1H-indazole (672.2 mg, 1.99 mmol), cesiumcarbonate (1.08 g, 3.31 mmol), copper (I)-iodide (157.8 mg, 0.83 mmol) and isobutyronitrile (1.75 mL) are stirred in a glass pressure tube at 120° C. for 20 h. The reaction mixture is filtered via a glass microfibre filter, the solvent evaporated and the residue purified by chromatography (silicagel, eluents: ethylacetate/methanol). 162.8 mg (23.3%) of the title compound are obtained.

reactant | (2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol | 1.66 mmol, 350 mg | N[C@H](C(O)C1=CC(=CC=C1)F)CC(C)C | C12H18FNO
reactant | 5-iodo-1-(4-fluorophenyl)-1H-indazole | 1.99 mmol, 672.2 mg | IC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C13H8FIN2
reactant | cesiumcarbonate | 3.31 mmol, 1.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isobutyronitrile | 1.75 mL | C(C(C)C)#N | C4H7N
catalyst | copper (I)-iodide | 0.83 mmol, 157.8 mg | [Cu]I
product | (αS)-3-Fluoro-β-[[1-(4-fluorophenyl)-1H-indazole-5-yl]oxy]-α-(2-methylpropyl)benzeneethanamine | 162.8 mg, 23.3% | FC=1C=C(C=CC1)C([C@@H](N)CC(C)C)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C25H25F2N3O
